US04559353
A mixture of ethyl 2,6-difluorobenzimidate (0.14 g), 3-chloro-5-trifluoromethyl-2-(4-isocyanatophenoxy)pyridine (0.24 g), and diethyl ether (10 ml) was stirred at 20° C. for 18 hours, after which the solvent was removed by evaporation and the residual solid recrystallised from petroleum ether (boiling range 60°-80° C.) to yield ethyl N-[4-(3-chloro-5-trifluoromethylpyrid-2-yloxy)phenylcarbamoyl]-2,6-difluorobenzimidate as a white solid (0.29 g), m.p. 127°-130° C.

reactant | ethyl 2,6-difluorobenzimidate | 0.14 g | FC1=C(C(OCC)=N)C(=CC=C1)F | C9H9F2NO
reactant | 3-chloro-5-trifluoromethyl-2-(4-isocyanatophenoxy)pyridine | 0.24 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)N=C=O | C13H6ClF3N2O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | ethyl N-[4-(3-chloro-5-trifluoromethylpyrid-2-yloxy)phenylcarbamoyl]-2,6-difluorobenzimidate | 0.29 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)NC(=O)N=C(C1=C(C=CC=C1F)F)OCC | C22H15ClF5N3O3
